US07414045B2
Step 4: 8-[acetyl(methyl)amino]-N-(4-fluorobenzyl)-3-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide
A solution of crude N-(4-fluorobenzyl)-3-hydroxy-8-(methylamino)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide, 1-hydroxybenzotriazole (2 eq.), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (2 eq.), DIPEA (1 eq.) and acetic acid (2 eq) in dichloromethane was stirred for 16 h at room temperature. The solvent was removed under vacuum and the product was isolated by prep. RP-HPLC, using water (0.1% TFA) and acetonitrile (0.1% TFA) as eluents (column: C18). After lyophilization the product was obtained as a fluffy white material.

reactant | N-(4-fluorobenzyl)-3-hydroxy-8-(methylamino)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCC(C3)NC)C=C1 | C17H19FN4O3
reactant | 1-hydroxybenzotriazole | 2 eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 2 eq. | Cl.CN(CCCN=C=NCC)C
reactant | DIPEA | 1 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic acid | 2 eq | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 8-[acetyl(methyl)amino]-N-(4-fluorobenzyl)-3-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide | C(C)(=O)N(C1CC=2N(C(C(=C(N2)C(=O)NCC2=CC=C(C=C2)F)O)=O)CC1)C | C19H21FN4O4
